US07691879B2
1-chloro-4-(2-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile
Following the procedure for 1-chloro-6-methoxy-4-phenylisoquinoline-3-carbonitrile, using 6-methoxy-1-oxo-4-(2-fluorophenyl)-1,2-dihydroisoquinoline-3-carbonitrile in place of 6-methoxy-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carbonitrile, the title compound was synthesized.

reactant | 1-chloro-6-methoxy-4-phenylisoquinoline-3-carbonitrile | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C17H11ClN2O
reactant | 6-methoxy-1-oxo-4-(2-fluorophenyl)-1,2-dihydroisoquinoline-3-carbonitrile | COC=1C=C2C(=C(NC(C2=CC1)=O)C#N)C1=C(C=CC=C1)F | C17H11FN2O2
product | 1-chloro-4-(2-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=C(C=CC=C1)F)C#N | C17H10ClFN2O
